US04870070
A mixture of 1.95 g of the 5,5-bis(azidomethyl)-1,3-dioxane, 0.5 g of 10% palladium on calcium carbonate and 40 ml of ethanol was reduced for 2 hours and then filtered. The filtrate was evaporated, giving 1.41 g of 1,3-dioxane-5,5-dimethanamine as an oil.

reactant | 5,5-bis(azidomethyl)-1,3-dioxane | 1.95 g | N(=[N+]=[N-])CC1(COCOC1)CN=[N+]=[N-] | C6H10N6O2
catalyst | palladium on calcium carbonate | 0.5 g | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1,3-dioxane-5,5-dimethanamine | 1.41 g | O1COCC(C1)(CN)CN | C6H14N2O2
